US08471019B2
b) 3,10-Dichloro-7,14-bis-(4-chloro-phenyl)-chromeno[2,3-b]xanthene
A solution of the product from example a (2,5-bis-[bis-(4-chloro-phenyl)-methoxy-methyl]-benzene-1,4-diol, 1.0 g, 1.56 mmol) is dissolved in nitrobenzene (5 ml) and the solution heated at reflux. The initially colourless solution turns red and later deeply violet. After one hour at reflux, the mixture is allowed to cool and then filtered. The product (violet needles) is washed with plenty of methanol and dried. MS shows the correct mass and isotopic pattern of four chlorines.

reactant | 2,5-bis-[bis-(4-chloro-phenyl)-methoxy-methyl]-benzene-1,4-diol | ClC1=CC=C(C=C1)C(C1=C(C=C(C(=C1)O)C(OC)(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)O)(OC)C1=CC=C(C=C1)Cl | C34H26Cl4O4
solvent | nitrobenzene | 5 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 3,10-Dichloro-7,14-bis-(4-chloro-phenyl)-chromeno[2,3-b]xanthene | ClC1=CC=2OC3=CC=4C(=CC3=C(C2C=C1)C1=CC=C(C=C1)Cl)OC1=CC(=CC=C1C4C4=CC=C(C=C4)Cl)Cl | C32H16Cl4O2
